US06177429B1
4-[3-[[[[3-[4-(3-Methoxyphenyl)-1-piperidinyl]propyl]-amino]carbonothioyl]amino]phenyl]-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester
1,4-Dihydro-2,6-dimethyl-4-(3-isothiocyanatophenyl)-3,5-pyrazinedicarboxylic acid, dimethyl ester (500 mg, 1.4 mmol) was refluxed with 4-(3-methoxyphenyl)-piperidine-1-propanamine (380 mg, 1.5 mmol) in 8 mL of benzene for 2 hours. Chromatographic purification (on silica gel, 100% methylene chloride first, followed by 10% (v/v) methanol in methylene chloride) of the residue after concentration in vacuo gave the title compound as a yellow foam (807 mg, 95%); 1H-NMR (CDCl3) δ 7.61 (br, 1H), 7.20 (t, 1H, J=7.9 Hz), 7.12 (t, 1H, J=8.1 Hz), 6.88 (br, 1H), 6.60 (m, 3H), 6.57 (dd, 1H, J=8.3, 2.1 Hz), 6.47 (br, 1H), 3.78 (s, 3H), 3.73 (s, 6H), 3.60-3.80 (m, 2H), 2.94 (m, 2H), 2.37 (s, 6H), 2.25-2.50 (m, 3H), 2.03 (m, 2H), 1.60-1.85 (m, 4H), 1.40-1.60 (m, 2H); 13C-NMR (CDCl3) δ 166.0, 159.6, 152.5, 149.2, 147.7, 130.2, 129.5, 119.5, 115.8, 113.1, 112.2, 111.1, 109.7, 108.8, 63.6, 55.2, 54.2, 51.8, 42.5, 32.8, 25.4, and 18.0.

reactant | 1,4-Dihydro-2,6-dimethyl-4-(3-isothiocyanatophenyl)-3,5-pyrazinedicarboxylic acid, dimethyl ester | 1.4 mmol, 500 mg | CC=1NC(=C(N(C1C(=O)OC)C1=CC(=CC=C1)N=C=S)C(=O)OC)C | C17H17N3O4S
reactant | 4-(3-methoxyphenyl)-piperidine-1-propanamine | 1.5 mmol, 380 mg | COC=1C=C(C=CC1)C1CCN(CC1)CCCN | C15H24N2O
solvent | benzene | 8 mL | C1=CC=CC=C1 | C6H6
product | 4-[3-[[[[3-[4-(3-Methoxyphenyl)-1-piperidinyl]propyl]-amino]carbonothioyl]amino]phenyl]-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester | 807 mg, 95% | COC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=S)NC=1C=C(C=CC1)N1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C32H41N5O5S
